US04696938
4.2 g of 6-(2-chlorophenyl)-2-methylpyridine was dissolved in 100 ml dioxane, 1.8 g of selenium dioxide (Aldrich, Gold Label) was added and the mixture was refluxed for 16 hours. The solution was decanted, fresh selenium dioxide (1.8 g) was added and refluxing was continued for a further 4 days. The solids were filtered and 250 ml ether was added. The organic solution was washed five times with 50 ml H2O, dried over magnesium sulfate. Evaporation afforded an oil which was filtered through silica gel eluting with 30% ether-hexane to afford 3.2 g of 6-(2-chlorophenyl)-2-pyridinecarboxaldehyde as a pale yellow solid.

reactant | 6-(2-chlorophenyl)-2-methylpyridine | 4.2 g | ClC1=C(C=CC=C1)C1=CC=CC(=N1)C | C12H10ClN
reactant | selenium dioxide | 1.8 g | [Se](=O)=O | O2Se
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-(2-chlorophenyl)-2-pyridinecarboxaldehyde | 3.2 g | ClC1=C(C=CC=C1)C1=CC=CC(=N1)C=O | C12H8ClNO
